US07951951B2
4.26 ml (74.4 mmol) of acetic acid are added to 16.30 g (74.4 mmol) of 3-chloro-N-[(6-chloropyridin-3-yl)methyl]propan-1-amine (IVa-1 cf. also B. Latli et al. J. Med. Chem. 1999, 42, 2227-2234) in 300 ml of benzene, and the mixture is stirred at room temperature for 30 minutes. 9.68 g (96.7 mmol) of tetronic acid and 128 mg of 4-toluenesulphonic acid are then added, and the mixture is heated under reflux on a water separator for 2 hours. The reaction mixture is concentrated under reduced pressure, the residue is then taken up in the solvent mixture dichloromethane:methanol (95:5) and the mixture is washed successively with 1N hydrochloric acid, 1N aqueous sodium hydroxide solution and saturated sodium chloride solution and dried over sodium sulphate. Concentration of the organic phase under reduced pressure and purification of the residue by column chromatography on silica gel (silica gel 60, Merck, particle size: 0.04 to 0.063 mm) using the mobile phase ethyl acetate gives 9.15 g (33% of theory) of 4-[(3-chloropropyl)[(6-chloropyridin-3-yl)methyl]amino]furan-2(5H)-one.

reactant | acetic acid | 74.4 mmol, 4.26 ml | C(C)(=O)O | C2H4O2
reactant | 3-chloro-N-[(6-chloropyridin-3-yl)methyl]propan-1-amine | 74.4 mmol, 16.30 g | ClCCCNCC=1C=NC(=CC1)Cl | C9H12Cl2N2
reactant | tetronic acid | 96.7 mmol, 9.68 g | C1C(=O)COC1=O | C4H4O3
reactant | water | O | H2O
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
catalyst | 4-toluenesulphonic acid | 128 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 4-[(3-chloropropyl)[(6-chloropyridin-3-yl)methyl]amino]furan-2(5H)-one | 9.15 g, 33% | ClCCCN(C1=CC(OC1)=O)CC=1C=NC(=CC1)Cl | C13H14Cl2N2O2
